US05998436
Synthesis of ethyl 1-(6-amino-5-fluoro-3-methylpyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate
To 1 ml chloroform solution of ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate prepared from 280 mg of ethyl 3-chloro-2,4,5-trifluorobenzoylacetate by normal process was added all of 2,6-diamino-3-fluoro-5-methylpyridine as described above together with 2 ml of methanol and 4 ml of chloroform. After allowing to stand at room temperature for 40 minutes, the solution was concentrated under reduced pressure. To the residue were added 600 mg of anhydrous potassium carbonate and 1 ml of N,N-dimethylformamide, and the mixture was stirred at 85° C. for 15 minutes and allowed to cool. The solution was separated by adding 30 ml of chloroform and 300 ml of distilled water, and the chloroform layer was washed twice with 300 ml of distilled water. The chloroform layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. To the residue was added 0.5 ml of ethanol, and the mixture was allowed to stand overnight. The precipitate was dispersed in ethanol, collected by filtration, and washed with ethanol and diisopropylether successively to obtain 171 mg of the title compound as a colorless powder.

reactant | ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate | C(C)OC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)Cl)F)=O | C14H12ClF3O4
reactant | ethyl 3-chloro-2,4,5-trifluorobenzoylacetate | 280 mg | ClC=1C(=C(C(=O)CC(=O)OCC)C=C(C1F)F)F | C11H8ClF3O3
reactant | 2,6-diamino-3-fluoro-5-methylpyridine | NC1=NC(=C(C=C1F)C)N | C6H8FN3
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 2 ml | CO | CH4O
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 1-(6-amino-5-fluoro-3-methylpyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 171 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)OCC)C)F | C18H13ClF3N3O3
